US07538101B2
Step 2: 6-Bromo-5-(1-isopropyl-piperidin-4-yloxy)-1H-indole-2-carboxylic acid ethyl ester
To the suspension of 0.25 g (0.88 mmol) 6-bromo-5-hydroxy-1H-indole-2-carboxylic acid ethyl ester in 5 mL tetrahydrofuran, 0.15 g (1.05 mmol) 1-isopropyl-piperidin-4-ol (commercially available) and 0.28 g (1.07 mmol) tributylphosphine were added. The suspension was cooled to 0° C., 0.244 g (1.06 mmol) di-tert-butyl azodicarboxylate was added and the reaction was allowed to reach room temperature. After 48 hours the suspension was filtered and the filtrate was evaporated. The residue was flash-chromatographed on silica gel with a gradient of dichloromethane:methanol (100:0 to 60:40 v/v) to give 0.20 g (55%) of the product as a light yellow foam. MS (m/e): 409.0 (M−H+, 100%).

reactant | 6-bromo-5-hydroxy-1H-indole-2-carboxylic acid ethyl ester | 0.88 mmol, 0.25 g | C(C)OC(=O)C=1NC2=CC(=C(C=C2C1)O)Br | C11H10BrNO3
reactant | 1-isopropyl-piperidin-4-ol | 1.05 mmol, 0.15 g | C(C)(C)N1CCC(CC1)O | C8H17NO
reactant | tributylphosphine | 1.07 mmol, 0.28 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | di-tert-butyl azodicarboxylate | 1.06 mmol, 0.244 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 6-Bromo-5-(1-isopropyl-piperidin-4-yloxy)-1H-indole-2-carboxylic acid ethyl ester | 0.20 g, 55% | C(C)OC(=O)C=1NC2=CC(=C(C=C2C1)OC1CCN(CC1)C(C)C)Br | C19H25BrN2O3
